US07494989B2
Synthesis of 4-(3,5-dichlorophenyl)-6-methyl-N-(3-phenylpropyl)-2-(n-propyl)-5-pyrimidinecarboxamide
100 mg (0.209 mmol) of 4-(3,5-dichlorophenyl)-6-methyl-2-(methylsulfonyl)-N-(3-phenylpropyl)-5-pyrimidinecarboxamide was dissolved in 3 ml of THF. 0.349 ml (0.90 mol/l, THF solution) of n-propyl magnesium bromide was added at 0° C. and stirred at the same temperature for 1 hour. 10% hydrochloric acid was added at the same temperature and stirred for 10 minutes. After the reaction mixture was diluted with ethyl acetate, the organic layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1 to 1/1) to obtain the title compound.

reactant | 4-(3,5-dichlorophenyl)-6-methyl-2-(methylsulfonyl)-N-(3-phenylpropyl)-5-pyrimidinecarboxamide | 0.209 mmol, 100 mg | ClC=1C=C(C=C(C1)Cl)C1=NC(=NC(=C1C(=O)NCCCC1=CC=CC=C1)C)S(=O)(=O)C | C22H21Cl2N3O3S
reactant | n-propyl magnesium bromide | 0.90 mol/l, 0.349 ml | C(CC)[Mg]Br
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3,5-dichlorophenyl)-6-methyl-N-(3-phenylpropyl)-2-(n-propyl)-5-pyrimidinecarboxamide | ClC=1C=C(C=C(C1)Cl)C1=NC(=NC(=C1C(=O)NCCCC1=CC=CC=C1)C)CCC | C24H25Cl2N3O
